### PR TITLE
[Merged by Bors] - Extend RingTheory.Flat.iff_rTensor_injective to all ideals

### PR DESCRIPTION
**Pull request by bustercopley**
Extend `RingTheory.Flat.iff_rTensor_injective` to all ideals

Using an elementary argument after Dummit and Foote (2004, Ex. 10.25)

---
[Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/flat.20modules/near/402873609)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by bustercopley** [comment]
I had fun naming `exists_fg_le_eq_rTensor_subtype_codRestrict` (there `exists` a `f`initely `g`enerated ideal J `≤` I such that x `= rTensor `J.`subtype.codRestrict` I ..), but more sensible suggestions would be appreciated.

**Comment by bustercopley** [comment]
Force push (sorry) - fix my email address in the reviewdog commit

File: Mathlib/RingTheory/Flat.lean [hunk 1]
```diff
@@ -110,6 +113,22 @@ lemma iff_rTensor_injective :
...
+  rewrite [Flat.iff_rTensor_injective]
+  refine ⟨fun h I => ?_, fun h I _ => h I⟩
+  letI : AddCommGroup (I ⊗[R] M) := inferInstance -- Type class reminder
+  rewrite [injective_iff_map_eq_zero]
+  intro x hx₀
+  have ⟨J, hfg, hle, y, hy⟩ := exists_fg_le_eq_rTensor_inclusion x
+  apply (fun hy₀ => by rw [hy, hy₀, _root_.map_zero] : y = 0 → x = 0)
+  rewrite [hy, ← comp_apply, ← rTensor_comp] at hx₀
+  letI : AddCommGroup (J ⊗[R] M) := inferInstance -- Type class reminder
+  exact (injective_iff_map_eq_zero _).mp (h hfg) y hx₀
```
Comment (alreadydone) [inline Mathlib/RingTheory/Flat.lean:130]: slightly golfed: removing some redundant parentheses, and use `obtain rfl`, `rTensor_comp_apply`. `rw` is much more idiomatic in mathlib than `rewrite`, in fact I don't recall ever seeing the latter in my life!
```suggestion
    Flat R M ↔ ∀ I : Ideal R, Injective (rTensor M I.subtype) := by
  rw [Flat.iff_rTensor_injective]
  refine ⟨fun h I => ?_, fun h I _ => h I⟩
  letI : AddCommGroup (I ⊗[R] M) := inferInstance -- Type class reminder
  rw [injective_iff_map_eq_zero]
  intro x hx₀
  obtain ⟨J, hfg, hle, y, rfl⟩ := exists_fg_le_eq_rTensor_inclusion x
  rw [← rTensor_comp_apply] at hx₀
  letI : AddCommGroup (J ⊗[R] M) := inferInstance -- Type class reminder
  rw [(injective_iff_map_eq_zero _).mp (h hfg) y hx₀, _root_.map_zero]
```

File: Mathlib/RingTheory/Flat.lean [hunk 2]
```diff
@@ -93,6 +93,9 @@ instance self (R : Type u) [CommRing R] : Flat R R :=
 
 variable (M : Type v) [AddCommGroup M] [Module R M]
 
+/-- An `R`-module `M` is flat iff for all finitely generated ideals `I` of `R`, the
+tensor product of the inclusion `I → R` and the identity `M → M` is injective. See
+`iff_rTensor_injective'` to extend to all ideals `I`. --/
 lemma iff_rTensor_injective :
     Flat R M ↔ (∀ ⦃I : Ideal R⦄ (_ : I.FG), Injective (rTensor M I.subtype)) := by
   have aux : ∀ (I : Ideal R), ((TensorProduct.lid R M).comp (rTensor M I.subtype)) =
```
Comment (alreadydone) [inline Mathlib/RingTheory/Flat.lean:101]: might remove some parentheses here if you want
```suggestion
    Flat R M ↔ ∀ ⦃I : Ideal R⦄, I.FG → Injective (rTensor M I.subtype) := by
  have aux : ∀ I : Ideal R, (TensorProduct.lid R M).comp (rTensor M I.subtype) =
```
(there's one more below after the =)

File: Mathlib/RingTheory/Finiteness.lean [hunk 3]
```diff
@@ -417,6 +417,28 @@ theorem fg_iff_compact (s : Submodule R M) : s.FG ↔ CompleteLattice.IsCompactE
...
+    · exact fg_span_singleton i.val
+    · rewrite [span_le, Set.singleton_subset_iff]; exact Subtype.mem i
+  | add x₁ x₂ ihx₁ ihx₂ =>
+    have ⟨J₁, hfg₁, hle₁, y₁, hy₁⟩ := ihx₁
+    have ⟨J₂, hfg₂, hle₂, y₂, hy₂⟩ := ihx₂
+    refine ⟨J₁ ⊔ J₂, FG.sup hfg₁ hfg₂, sup_le hle₁ hle₂,
+      rTensor M (J₁.inclusion (le_sup_left : J₁ ≤ J₁ ⊔ J₂)) y₁ +
+        rTensor M (J₂.inclusion (le_sup_right : J₂ ≤ J₁ ⊔ J₂)) y₂, ?_⟩
+    rewrite [map_add, ← comp_apply, ← rTensor_comp, ← comp_apply, ← rTensor_comp, hy₁, hy₂]
+    rfl
```
Comment (alreadydone) [inline Mathlib/RingTheory/Finiteness.lean:440]: similarly here
```suggestion
      ∃ J : Submodule R N, J.FG ∧ ∃ (hle : J ≤ I) (y : J ⊗ M),
        x = rTensor M (J.inclusion hle) y := by
  induction x using TensorProduct.induction_on with
  | zero => exact ⟨⊥, fg_bot, zero_le _, 0, rfl⟩
  | tmul i m => exact ⟨R ∙ i.val, fg_span_singleton i.val,
      (span_singleton_le_iff_mem _ _).mpr i.prop,
      ⟨i.val, mem_span_singleton_self _⟩ ⊗ₜ[R] m, rfl⟩
  | add x₁ x₂ ihx₁ ihx₂ =>
    obtain ⟨J₁, hfg₁, hle₁, y₁, rfl⟩ := ihx₁
    obtain ⟨J₂, hfg₂, hle₂, y₂, rfl⟩ := ihx₂
    refine ⟨J₁ ⊔ J₂, hfg₁.sup hfg₂, sup_le hle₁ hle₂,
      rTensor M (J₁.inclusion (le_sup_left : J₁ ≤ J₁ ⊔ J₂)) y₁ +
        rTensor M (J₂.inclusion (le_sup_right : J₂ ≤ J₁ ⊔ J₂)) y₂, ?_⟩
    simp_rw [map_add, ← rTensor_comp_apply]
    rfl
```

**Review by alreadydone — APPROVED** [review]

File: Mathlib/RingTheory/Flat.lean (hunk 1 above)
Comment (bustercopley) [reply Mathlib/RingTheory/Flat.lean:130]: Thanks!

`rewrite` and `rw` are not the same thing (see the `rw` docstring). I prefer to use the one I mean in each case. It's [not a popular position](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/tactic.20docstrings/near/393803105), but it's correct, and I don't want to do it the wrong way just because everyone else does. Not a hill I'll choose to die on, ultimately, but do you mind if apply the rest of the suggestion but change the non-finishing `rw`'s back to `rewrite`s?

File: Mathlib/RingTheory/Flat.lean (hunk 2 above)
Comment (bustercopley) [reply Mathlib/RingTheory/Flat.lean]: Ah, this part is not my code. See #7567. I should probably not touch it. I'll undo this.

File: Mathlib/RingTheory/Finiteness.lean (hunk 3 above)
Comment (bustercopley) [reply Mathlib/RingTheory/Finiteness.lean:440]: Great! I somewhat prefer the original statement with the four hypotheses in the existential. That style seems not uncommon. Slightly more strongly I prefer not to use `simp_rw` when `rewrite` suffices, since `rewrite` (or `rw`) is a lot faster. I like the `obtain` and `rTensor_comp_apply`.

Comment (bustercopley) [reply Mathlib/RingTheory/Finiteness.lean:440]: I also like the replacement of `refine` by `exact`, but `Subtype.prop` is a rather subtle theorem, and I prefer the simple accessor `Subtype.property` when the subtlety is not needed. It's easier to understand what the code is doing.

File: Mathlib/RingTheory/Flat.lean (hunk 1 above)
Comment (bustercopley) [reply Mathlib/RingTheory/Flat.lean]: > do you mind if apply the rest of the suggestion but change the non-finishing `rw`'s back to `rewrite`s?

Done. Let me know if you feel strongly about `rw` vs `rewrite`.

File: Mathlib/RingTheory/Finiteness.lean (hunk 3 above)
Comment (bustercopley) [reply Mathlib/RingTheory/Finiteness.lean]: Applied with some modifications.

File: Mathlib/RingTheory/Flat.lean (hunk 2 above)
Comment (bustercopley) [reply Mathlib/RingTheory/Flat.lean:101]: Reverted.

File: Mathlib/RingTheory/Flat.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Flat.lean]: Sounds good!

**Comment by bustercopley** [comment]
A couple of things occur to me.
* If `exists_fg_le_eq_rTensor_inclusion` is generally useful, then so might be its flipped version with `lTensor` and their corollary for the tensor product of two submodules
* Splitting the following lemma out of `iff_rTensor_injective'` might be convenient for users:
```lean
theorem rTensor_subtype_injective_of_forall_fg :
    (∀ ⦃I : Submodule R N⦄ (_ : I.FG), Function.Injective (LinearMap.rTensor M I.subtype)) →
      ∀ I : Submodule R N, Function.Injective (LinearMap.rTensor M I.subtype) := sorry
```

File: Mathlib/RingTheory/Flat.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Flat.lean:101]: I think you need not abstain from touching existing code as long as you see an improvement, but LGTM

maintainer merge

File: Mathlib/RingTheory/Finiteness.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Finiteness.lean]: `Subtype.property` is syntactically `p x.val` while [Subtype.prop](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Subtype.html#Subtype.prop) is `p ↑x`. They used to be different in Lean 3 but are practically the same in Lean 4 due to how coercion now works. Therefore I think you can think of `Subtype.prop` as a shorthand for `Subtype.property`. (Actually I think `x.2` is also common in mathlib (`.2` for `Iff.mpr` is also common).

**Comment by alreadydone** [comment]
> A couple of things occur to me. ....

I think the lemmas are pretty technical and not of obvious general interest, so I suggest we just let people extract proofs and add variants when they actually need them.

File: Mathlib/RingTheory/Finiteness.lean [hunk 4]
```diff
@@ -417,6 +417,27 @@ theorem fg_iff_compact (s : Submodule R M) : s.FG ↔ CompleteLattice.IsCompactE
       exact ⟨t, ssup⟩
 #align submodule.fg_iff_compact Submodule.fg_iff_compact
 
+open TensorProduct LinearMap in
+/-- Every `x : I ⊗ M` is the image of some `y : J ⊗ M` where `J ≤ I` is finitely generated,
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Finiteness.lean:421]:
```suggestion
/-- Every `x : I ⊗ M` is the image of some `y : J ⊗ M`, where `J ≤ I` is finitely generated,
```

**Review by riccardobrasca — APPROVED** [review]
I agree you can remove the parenthesis as suggested by Junyan. Thanks!

bors d+
